US06599902B2
POCl3 (4 mL, 1.1 eq) added to 9 mL (3 eq) of DMF cooled in an ice bath. After 15 mins, a solution of the 4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (6 g, 39.2 mmol) in DMF (2M, 20 mL) was added to the reaction and stirring continued at rt. After 2 hr, the reaction mixture was diluted with water (100 mL) and basified to pH=11 with 1N NaOH. The aqueous layer was extracted into DCM (2×250 mL), washing the combined organic layers with water (2×400 mL), dried (MgSO4), filtered through a plug of silica and concentrated to afford a pinkish solid. Trituration with hexanes afforded 3.3 g (46%) of 5-formyl-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester as a tan solid

reactant | POCl3 | 4 mL, 1.1 eq | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 39.2 mmol, 6 g | C(C)OC(=O)C1=CNC=C1C | C8H11NO2
reactant | NaOH | 1N | [OH-].[Na+]
reactant | DMF | 2M, 20 mL | CN(C)C=O | C3H7NO
reactant | DMF | 9 mL, 3 eq | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 5-formyl-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 3.3 g, 46% | C(C)OC(=O)C1=CNC(=C1C)C=O | C9H11NO3
